US04824958
Methyl 3-hydroxy-4-bromo-5-phenyl-2-thiophenecarboxylate.
Prepared by the method described in Example 4 from methyl 3-hydroxy-5-phenyl-2-thiophenecarboxylate (5.0 g, 21 mmoles) and bromine (3.4 g, 21 mmoles). Recrystallization from methanol gave the product (4.0 g); mp 85°-87° C.

reactant | methyl 3-hydroxy-5-phenyl-2-thiophenecarboxylate | 21 mmoles, 5.0 g | OC1=C(SC(=C1)C1=CC=CC=C1)C(=O)OC | C12H10O3S
reactant | bromine | 21 mmoles, 3.4 g | BrBr | Br2
product | Methyl 3-hydroxy-4-bromo-5-phenyl-2-thiophenecarboxylate | 4.0 g | OC1=C(SC(=C1Br)C1=CC=CC=C1)C(=O)OC | C12H9BrO3S
